US06407243B1
[2-(4-Hydroxyphenyl)-6-hydroxybenzofuran-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanol
4.57 g (0.01 mol) of [2-(4-hydroxyphenyl)-6-hydroxybenzofuran-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone was dissolved in 250 mL of THF and 2 g (0.053 mol) of LiAlH4 was slowly added over a period of twenty minutes to the stirring solution. The reaction mixture was stirred and kept under a nitrogen atmosphere and the reaction was allowed to proceed for eighteen hours at room temperature and then it was concentrated to dryness in vacuo. 500 mL of EtOAc was slowly added along with 2 mL of water. After stirring for 10 minutes, 500 mL of water was added and the EtOAc layer was removed. The EtOAc layer was washed with an additional 500 mL of water and the layers were separated. The EtOAc layer was dried with anhydrous Na2SO4 and concentrated to dryness to yield 2.66 g of the title compound as tan amorphous powder.

reactant | [2-(4-hydroxyphenyl)-6-hydroxybenzofuran-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 0.01 mol, 4.57 g | OC1=CC=C(C=C1)C=1OC2=C(C1C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)O | C28H27NO5
reactant | LiAlH4 | 0.053 mol, 2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | [2-(4-Hydroxyphenyl)-6-hydroxybenzofuran-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanol | 2.66 g | OC1=CC=C(C=C1)C=1OC2=C(C1C(O)C1=CC=C(C=C1)OCCN1CCCCC1)C=CC(=C2)O | C28H29NO5
